* Riedon SSA2-250 Simplified SPICE Model
* 5mV/A differential output, no shunt resistance
* Pins: +I_IN -I_IN +V_OUT -V_OUT VCC GND

.SUBCKT SSA2_250 1 2 3 4 5 6
* Node 1 = +I_IN (load input)
* Node 2 = -I_IN (load output)
* Node 3 = +V_OUT (differential output +)
* Node 4 = -V_OUT (differential output -)
* Node 5 = VCC
* Node 6 = GND

* Zero-resistance shunt (ideal wire)
RSHUNT 1 2 1u

* Internal reference ground (VCC-referenced analog GND)
* Tie sensing circuitry to GND
RGND 6 0 1MEG

* Sense current through shunt
* Voltage-controlled voltage source, output = 0.005 * I(RSHUNT)
EDIFF 3 4 VALUE = {0.005 * I(RSHUNT)}

* Optional output impedance (for realism)
ROUT1 3 6 1k
ROUT2 4 6 1k

.ENDS SSA2_250
