* OPA333 - operational amplifier SPICE MACROMODEL
*
* Amplifier classification: 1.8V microPower CMOS, zero-drift, operational amplifier
*
* Model definition by HPA Linear Products Applications Engineering (tek)- Texas Instruments Inc.
*          
* Rev. B - 23 June 2009, by W.K. SANDS
*
* Incorporates 3-stage design, corrects complex open-loop output impedance, adds input overdrive, input current behavior
*
***************************************************************************
** (C) Copyright 2009 Texas Instruments Incorporated. All rights reserved.
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed or implied, 
** with respect to this  model, including the warranties of merchantability or fitness 
** for a particular purpose. The model is provided solely on an "as is" basis. The entire
** risk as to its quality and performance is with the customer.         
***************************************************************************
*
* This macromodel has been optimized to model the AC, DC, noise, and transient response performance within 
* the device data sheet specified limits. Correct operation of this macromodel has been verified on
* MicroSim P-Spice ver. 8.0, DesignSoft TINA, and on PENZAR Development TopSPICE ver. 6.82d. For help
* with other analog simulation software, please consult your software supplier. 
*
* BEGIN MODEL OPA333
*
* MODEL FEATURES INCLUDE OPEN LOOP GAIN AND PHASE, INPUT
* VOLTAGE NOISE, INPUT CURRENT NOISE, INPUT BIAS CURRENT
* WITH SUPPLY VOLTAGE AND TEMPERATURE EFFECTS, INPUT
* CAPACITANCE, INPUT COMMON MODE VOLTAGE RANGE, INPUT
* CLAMPS TO RAILS, INPUT DIFFERENTIAL CLAMPS, CMRR WITH
* FREQUENCY EFFECTS, PSRR WITH FREQUENCY EFFECTS, SLEW
* RATE, SETTLING TIME, OVERLOAD RECOVERY TIME, QUIESCENT
* CURRENT VS VOLTAGE AND TEMPERATURE, RAIL TO RAIL OUT-
* PUT STAGE, OPEN LOOP OUTPUT IMPEDANCE VERSUS FREQUENCY,
* HIGH CLOAD EFFECTS, CLASS AB BIAS IN OUTPUT STAGE,
* OUTPUT CURRENT THROUGH SUPPLIES, OUTPUT CURRENT LIMIT,
* OUTPUT CLAMPS TO RAILS, AND OUTPUT SWING VS OUTPUT
* CURRENT.
*
* MODEL TEMPERATURE RANGE IS -40 TO +125 DEG C.
* NOTE THAT THE MODEL IS FUNCTIONAL OVER THIS RANGE BUT
* NOT ALL PARAMETERS TRACK THOSE OF THE REAL PART.
*
* PINOUT +IN -IN +V -V OUT
* PINOUT  3   4   5  2  1
.SUBCKT OPA333 3 4 5 2 1
Q20 6 7 8 QLN
R3 9 10 2
R4 11 10 2
R10 7 12 100
R11 13 14 100
R12 14 5 10
R13 2 12 20
R17 15 16 10
R18 8 17 20
D5 1 5 DD
D6 2 1 DD
D7 18 0 DIN
D8 19 0 DIN
I8 0 18 0.1E-3
I9 0 19 0.1E-3
E2 8 0 2 0 1
E3 16 0 5 0 1
D9 20 0 DVN
D10 21 0 DVN
I10 0 20 0.2E-6
I11 0 21 0.2E-6
E4 22 4 20 21 0.9E-6
G2 23 4 18 19 2.8E-7
E5 24 0 16 25 1
E6 26 0 8 25 1
E7 27 0 28 0 1
R30 24 29 1E6
R31 26 30 1E6
R32 27 31 1E6
R33 0 29 100
R34 0 30 100
R35 0 31 100
R36 32 28 1E3
R37 28 33 1E3
C6 24 29 0.2E-12
C7 26 30 0.2E-12
C8 27 31 2E-12
E11 34 3 30 0 -3.5E-3
E12 35 34 29 0 3.5E-3
E14 25 8 16 8 0.5
D11 36 16 DD
D12 8 36 DD
M1 37 38 12 12 NOUT L=3U W=300U
M2 39 40 14 14 POUT L=3U W=70U
M3 41 41 15 15 POUT L=3U W=70U
M4 42 43 9 9 PIN L=3U W=15U
M5 44 45 11 11 PIN L=3U W=15U
M8 46 46 17 17 NOUT L=3U W=300U
R43 47 48 300
R44 49 50 300
G3 36 25 51 25 5E-6
R45 25 36 1.2E9
R46 8 42 1.2E5
R47 8 44 1.2E5
C13 42 44 1.5E-12
C14 23 0 2E-12
C15 52 0 2E-12
C16 1 0 2.5E-12
D13 50 6 DD
D14 53 48 DD
Q15 53 13 16 QLP
V18 54 43 0
M19 55 56 16 16 PIN L=6U W=500U
I14 41 46 9.1E-6
E17 33 0 23 0 1
E18 32 0 4 0 1
M23 56 56 16 16 PIN L=6U W=500U
V21 55 10 0
R59 1 39 5
R60 37 1 5
J1 57 23 57 JC
J2 57 52 57 JC
J3 52 58 52 JC
J4 23 58 23 JC
C21 23 52 1E-14
E20 59 25 44 42 1
R62 59 51 100
C23 51 25 0.5E-12
G7 60 25 61 25 -1E-3
G8 25 62 61 25 1E-3
G9 25 63 46 8 1E-3
G10 64 25 16 41 1E-3
D17 64 60 DD
D18 62 63 DD
R66 60 64 1E11
R67 63 62 1E11
R68 64 16 1E3
R69 8 63 1E3
E23 16 47 16 64 1
E24 49 8 63 8 1
R70 62 25 1E11
R71 63 25 1E11
R72 25 64 1E11
R73 25 60 1E11
C27 40 39 70E-15
C28 37 38 70E-15
R74 2 5 1.7E6
G12 5 2 65 0 325E-8
I20 0 66 1E-3
D20 66 0 DD
V24 66 65 0.71
R75 0 65 1E6
I21 5 2 3.97U
E25 67 0 1 0 1
G13 61 25 36 25 -5E-6
R77 25 61 8.64E8
C29 36 68 8E-12
C30 61 69 32E-12
R78 69 67 2.5E3
R79 68 67 5
R80 36 67 1.2E11
R81 61 67 1E12
D21 61 16 DD
D22 8 61 DD
V52 70 0 1
I63 0 71 1E-3
D23 71 0 DD
R307 0 71 10E6
V81 71 72 1.798
R308 0 72 20E6
E52 73 0 72 0 -0.875
R309 0 73 10E6
R310 74 73 10E6
M52 74 75 0 0 NEN L=2U W=1000U
V141 76 0 1
R311 76 75 1E6
M53 75 70 0 0 NEN L=2U W=100U
R312 0 72 20E6
G14 56 8 74 0 2.3E-6
G52 23 4 65 0 -80E-12
I65 23 4 -15E-12
R314 48 40 1
R315 50 38 1
C32 36 67 1E-15
G53 61 25 51 25 20E-6
R316 77 78 2
R317 77 79 2
R318 80 16 1.2E5
R319 81 16 1.2E5
G54 36 25 82 25 5E-6
R322 25 36 1E12
E55 83 25 81 80 1
R323 83 82 100
C34 82 25 0.5E-12
M54 80 23 78 78 NIN L=3U W=15U
M55 81 52 79 79 NIN L=3U W=15U
M56 84 84 8 8 NIN L=6U W=500U
M57 77 84 8 8 NIN L=6U W=500U
M58 84 85 86 86 PIN L=6U W=500U
R324 86 55 6.5E3
V144 16 85 0.9
G55 61 25 82 25 20E-6
C53 36 0 8E-12
C54 61 0 8E-12
G56 61 25 31 0 4.62E-4
C55 80 81 1.5E-12
E56 52 22 87 0 1
R326 0 87 1.2E5
R327 0 87 1.2E5
G57 23 4 88 0 1E-5
R328 0 88 12.07E3
R329 0 88 12.07E3
E57 89 35 74 0 12.8U
V147 16 90 0.47
V148 91 8 0.47
R330 3 34 1E9
R331 34 35 1E9
R332 35 89 1E9
R333 22 52 1E9
R334 4 22 1E9
C56 69 67 25E-12
V149 89 23 12E-6
G60 23 4 16 8 -20E-12
E59 90 57 65 0 1.3
E60 58 91 65 0 1.3
R335 90 57 1E12
R336 91 58 1E12
J5 45 54 45 JC
J6 54 45 54 JC
R338 52 45 1E4
R339 23 54 1E4
.MODEL DD D
.MODEL DVN D KF=1.05E-16 IS=1E-16
.MODEL DIN D
.MODEL JC NJF IS=1E-18
.MODEL QLN NPN IS=1E-13 XTI=18
.MODEL QLP PNP IS=1E-13 XTI=18
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL NOUT NMOS LEVEL=3 PHI=0.7 TOX=2E-8 XJ=5E-7
+ TPG=1 VTO=0.7 DELTA=0.5 LD=1E-7 KP=2E-4 UO=650
+ THETA=0.1 GAMMA=0.5 NSUB=1E17 NFS=6E11 FC=0.5
+ VMAX=1E5 ETA=3E-6 KAPPA=10 PB=1 IS=1E-18
.MODEL POUT PMOS LEVEL=3 PHI=0.7 TOX=2E-8 XJ=5E-7
+ TPG=-1 VTO=-0.7 DELTA=0.5 LD=1E-7 KP=2E-4 UO=650
+ THETA=0.1 GAMMA=0.5 NSUB=1E17 NFS=6E11 FC=0.5
+ VMAX=1E5 ETA=3E-6 KAPPA=10 PB=1 IS=1E-18
.ENDS
* END MODEL OPA333